US07276502B2
2-Acetyl-4,5-dimethylthiazole
A solution of 4,5-dimethylthiazole (2.0 g, 17.67 mmol, 1 eq.) in dry diethyl ether (20 mL) was added slowly dropwise, over approximately 30 minutes, to a solution of butyllithium (7.8 mL, 19.44 mmol, 2.5M, 1.1 eq.) in dry diethyl ether (20 mL) at −70° C. The resultant solution was stirred at −70° C. for 30 minutes, −30° C. for 20 minutes and then re-cooled to −70° C. Dry ethyl acetate (3.11 g, 3.5 mL, 35.34 mmol, 2 eq.) was added in one portion to the deep red solution and the cooling bath was removed. After 50 minutes stirring at room temperature the reaction mixture was poured into saturated NaHSO4 and extracted with ethyl acetate (3×50 mL). The combined organic extracts were washed with saturated Na2CO3 (1×50 mL), brine (1×50 mL), dried over solid Na2SO4 and filtered. The filtrate was concentrated under reduced pressure and the resultant greenish, mobile oil was purified by column chromatography (15% ethyl acetate in hexanes) on silica gel giving a yellow oil (1.81 g, 66% yield): 1H (400 Mhz, CDCl3) δ 2.4(3H, s), 2.5(3H, s), 2.7(3H, s).

reactant | 4,5-dimethylthiazole | 17.67 mmol, 2.0 g, 1 eq. | CC=1N=CSC1C | C5H7NS
reactant | butyllithium | 19.44 mmol, 2.5M, 7.8 mL, 1.1 eq. | C(CCC)[Li]
reactant | ethyl acetate | 35.34 mmol, 3.5 mL, 3.11 g, 2 eq. | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 2-Acetyl-4,5-dimethylthiazole | 1.81 g, 66% yield | C(C)(=O)C=1SC(=C(N1)C)C | C7H9NOS
